### PR TITLE
natural logarithm for extended real numbers

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

closes draft PR #1613

@jmmarulang : I have duplicated your PR to avoid pushing on your master

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Comment by affeldt-aist** [comment]
Note that the last commit changes the definition of `lne` so that `lne -oo = -oo`
and then we can write
```coq
Lemma lne_div : {in `]0, +oo] &, {morph lne : x y / x / y >-> x - y}}.
```
instead of
```coq
Lemma lne_div x y :
  0 < x -> 0 < y -> lne (x * (fine y)^-1%:E) = lne x - lne y.
```
(fyi: @CohenCyril) 

@jmmarulang It looks a bit better but is it as useful to you?

File: theories/exp.v [hunk 1]
```diff
@@ -21,7 +21,8 @@ From mathcomp Require Import realfun interval_inference convex.
 (*   pseries_diffs f i == (i + 1) * f (i + 1)                                 *)
 (*                                                                            *)
 (*             expeR x == extended real number-valued exponential function    *)
-(*                ln x == the natural logarithm                               *)
+(*                ln x == the natural logarithm, in ring_scope                *)
+(*                lne x == the natural logarithm, in ereal_scope              *)
```
Comment (hoheinzollern) [inline theories/exp.v]: I'd rather align the `==` than the function names

File: theories/exp.v [hunk 2]
```diff
@@ -1118,9 +1126,134 @@ move=> x_gt0; split.
...
+by rewrite expeS lneM ?ih ?muleS// in_itv/= ?expe_gt0// ?x0/= leey.
+Qed.
+
+Lemma le_lne1Dx x : - 1%E <= x -> lne (1 + x) <= x.
+Proof.
+move=> ?; rewrite -lee_expeR lneK ?expeR_ge1Dx //.
+by rewrite in_itv //= leey andbT addrC -(oppeK 1) sube_ge0.
+Qed.
+
+Lemma lne_sublinear x : 0 < x < +oo -> lne x < x.
```
Comment (CohenCyril) [inline theories/exp.v]: This is probably true for all finite x?

File: theories/exp.v [hunk 3]
```diff
@@ -1118,9 +1126,134 @@ move=> x_gt0; split.
...
+Proof.
+case: x => [r| |]//; rewrite ?ltxx ?andbF// lte_fin => /andP[r0 _].
+by rewrite lne_EFin// lte_fin ln_sublinear.
+Qed.
+
+Lemma lne_ge0 x : 1 <= x -> 0 <= lne x.
```
Comment (CohenCyril) [inline theories/exp.v]: This is probably an equivalence?

File: theories/exp.v [hunk 4]
```diff
@@ -1118,9 +1126,134 @@ move=> x_gt0; split.
...
+Proof.
+case: x => [r||]//; rewrite ?leey// lee_fin => r1.
+by rewrite lne_EFin// ?(lt_le_trans _ r1)// lee_fin ln_ge0.
+Qed.
+
+Lemma lne_lt0 x : 0 < x < 1 -> lne x < 0.
```
Comment (CohenCyril) [inline theories/exp.v]: This is probably a consequence of the following equivalence:
```suggestion
Lemma lne_lt0 x : (lne x < 0) = (x < 1).
```

File: theories/exp.v [hunk 5]
```diff
@@ -1118,9 +1126,134 @@ move=> x_gt0; split.
...
+Proof.
+by move=> /andP[? ?]; rewrite -lte_expeR expeR0 lneK ?in_itv//= leey andbT ?ltW.
+Qed.
+
+Lemma lne_gt0 x : 1 < x -> 0 < lne x.
```
Comment (CohenCyril) [inline theories/exp.v]: This is probably an equivalence

File: theories/exp.v [hunk 6]
```diff
@@ -1118,9 +1126,134 @@ move=> x_gt0; split.
...
+Proof.
+move=> x1; rewrite -lte_expeR expeR0 lneK// in_itv/= leey andbT.
+by rewrite (le_trans _ (ltW x1)).
+Qed.
+
+Fact le1_lne_le0 x : x <= 1 -> lne x <= 0.
```
Comment (CohenCyril) [inline theories/exp.v]: same

File: theories/exp.v [hunk 7]
```diff
@@ -1118,9 +1126,134 @@ move=> x_gt0; split.
...
+Lemma lee_lne : {in `[0, +oo] &, {mono lne : x y / x <= y}}.
+Proof. by move=> x y x_gt0 y_gt0; rewrite -lee_expeR !lneK. Qed.
+
+Lemma lneXn n x : 0 < x -> lne (x ^+ n) = lne x *+ n.
+Proof.
+elim: n x => [x x0|n ih x x0]; first by rewrite expe0 mule0n lne1.
+by rewrite expeS lneM ?ih ?muleS// in_itv/= ?expe_gt0// ?x0/= leey.
+Qed.
+
+Lemma le_lne1Dx x : - 1%E <= x -> lne (1 + x) <= x.
```
Comment (CohenCyril) [inline theories/exp.v:1220]: equivalence too? (and why `%E`?)

File: theories/exp.v (hunk 2 above)
Comment (affeldt-aist) [reply theories/exp.v]: Indeed.

File: theories/exp.v (hunk 3 above)
Comment (affeldt-aist) [reply theories/exp.v]: Indeed.

File: theories/exp.v (hunk 4 above)
Comment (affeldt-aist) [reply theories/exp.v]: Indeed, this is a direct consequence, directly provable from the previous equivalence.

File: theories/exp.v (hunk 7 above)
Comment (affeldt-aist) [reply theories/exp.v:1220]: Maybe not because `lne (1 - 2) = -oo <= - 2` would imply `-1 <= - 2`.

As for the scope, without it we get the following error:
```coq
The term "-1" has type
 "GRing.Zmodule.sort
    (join_GRing_PzRing_between_GRing_PzSemiRing_and_GRing_Zmodule ?t)"
while it is expected to have type "\bar ?R".
```
I have therefore tentatively added a notation for `- 1` in the `ereal_scope`.

~~TODO: fix `mulN1e`~~ DONE

File: reals/constructive_ereal.v [hunk 8]
```diff
@@ -1284,7 +1292,7 @@ Qed.
 Lemma mule_eq0 x y : (x * y == 0) = (x == 0) || (y == 0).
 Proof.
 apply/idP/idP => [|/orP[] /eqP->]; rewrite ?(mule0, mul0e)//.
-by apply: contraTT => /norP[]; apply: mule_neq0.
+by apply: contraTT => /norP[]; exact: mule_neq0.
```
Comment (proux01) [inline reals/constructive_ereal.v:1294]: Spurious change?

File: reals/constructive_ereal.v [hunk 9]
```diff
@@ -155,6 +155,7 @@ Notation "0" := (@GRing.zero (\bar^d _)) : ereal_dual_scope.
 Notation "0" := (@GRing.zero (\bar _)) : ereal_scope.
 Notation "1" := (1%R%:E : dual_extended _) : ereal_dual_scope.
 Notation "1" := (1%R%:E) : ereal_scope.
+Notation "- 1" := ((-1)%R%:E) : ereal_scope.
```
Comment (proux01) [inline reals/constructive_ereal.v]: I'm really not sure we want that: this introduces a special case for `- 1` that becomes `(- 1)%:E` whereas `- 2` remains `- 2%:E`. So `- <n>` is `- <n>%:E`, except when `<n>` is `1` where it is `(- <n>)%:E`. That can be a surprising exception.

**Comment by proux01** [comment]
> CI errors seem unrelated

I agree but let me rebase it to be extra safe.

File: reals/constructive_ereal.v (hunk 8 above)
Comment (affeldt-aist) [reply reals/constructive_ereal.v:1294]: not really, I tend to use exact instead of apply to conclude because we gain the coloring.

File: reals/constructive_ereal.v (hunk 9 above)
Comment (affeldt-aist) [reply reals/constructive_ereal.v]: Indeed. On the other hand, `- 1` is also a notation in `ssralg.v`, this PR provides an example that looks more natural with this notation, and it also helped us spotting an error in the definition of `mulN1e`, so it is not entirely negative imo. This is true that this is an exceptional case but given the many `N1` lemmas, it seems to me that we already treat it as a special case. I am not sure what to do but I lean a bit towards the special notation. :-/

File: reals/constructive_ereal.v (hunk 8 above)
Comment (proux01) [reply reals/constructive_ereal.v:1294]: I generally agree, but here it is redundant with the `by` at the beginning of the line, so the color is more distracting than anything.

File: reals/constructive_ereal.v (hunk 9 above)
Comment (proux01) [reply reals/constructive_ereal.v]: I didn't even think about the notation priority thing, that makes it even worse :( if `- 1 * n` and `- 2 * n` are not parsed the same way.
And yes `-1` is a notation in `ssralg.v` but so is `- <n>`, the `- 1` is only to have `- GRing.one`.

Comment (affeldt-aist) [reply reals/constructive_ereal.v]: Notation reverted, but they led to reintroduce `1%E`'s. :-/ (even though the notation is defined by `Notation "- x"   := (oppe x%E) : ereal_scope.`)

Comment (proux01) [reply reals/constructive_ereal.v]: Strange, that might be a bug in Rocq? We should probably minimize it.

Comment (affeldt-aist) [reply reals/constructive_ereal.v]: Trying to minimize:
```coq
From mathcomp Require Import all_ssreflect all_algebra.

Declare Scope ereal_scope.

Local Open Scope ring_scope.

Variant extended {R : Type} := EFin of R.

Notation "r %:E" := (@EFin _ r%R) (format "r %:E").
Notation "1" := (1%R%:E) : ereal_scope.

Axiom oppe : forall {R : zmodType}, @extended R -> @extended R.

Delimit Scope ereal_scope with E.

Notation "- x" := (oppe x%E) : ereal_scope.

Local Open Scope ereal_scope.

Axiom R : numDomainType.

Fail Check - 1 : @extended R.
(* The command has indeed failed with message:
The term "-1" has type
 "GRing.Zmodule.sort
    (join_GRing_Ring_between_GRing_SemiRing_and_GRing_Zmodule ?t)"
while it is expected to have type "extended".
*)
Check - 1%E : @extended R.
```

Comment (proux01) [reply reals/constructive_ereal.v]: > Trying to minimize:

Thanks, nice first step

> ```coq
> From mathcomp Require Import all_ssreflect all_algebra.
> ```

We now need to get rid of that to report it as a Rocq bug.
But I'm now wondering whether it's really a bug.
In fact it's probably not. And our solution would be to add a small `Number Notation` in ereal scope. Will try that in a separate PR.

**Comment by proux01** [comment]
@affeldt-aist CI green, I let you squash / merge at your convenience

**Comment by affeldt-aist** [comment]
> @affeldt-aist CI green, I let you squash / merge at your convenience

Thanks! (I wait a bit for input by the other participants to the conversation.)

File: reals/constructive_ereal.v (hunk 9 above)
Comment (proux01) [reply reals/constructive_ereal.v]: Addressed in https://github.com/math-comp/analysis/pull/1704
